US06358980B1
1-Benzoyl-4-(4-but-2-ynyloxybenzenesulfonyl)piperidine-4-carboxylic acid methyl ester
To a solution of 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester, (400 mg, 1.03 mmol) in chloroform (10 ml) was added triethylamine (416 mg, 4.12 mmol), benzoyl chloride(144 μl, 1.24 mmol) followed by a catalytic amount of dimethylaminopyridine. The resulting mixture was stirred for 15 hours at room temperature, quenched with water and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated to give 375 mg (80%) of the product as a solid. MS-ES: m/z 456.1 (M+H)+.

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester | 1.03 mmol, 400 mg | COC(=O)C1(CCNCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C17H21NO5S
reactant | triethylamine | 4.12 mmol, 416 mg | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.24 mmol, 144 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzoyl-4-(4-but-2-ynyloxybenzenesulfonyl)piperidine-4-carboxylic acid methyl ester | 375 mg, 80% | COC(=O)C1(CCN(CC1)C(C1=CC=CC=C1)=O)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C24H25NO6S
